Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Upper extremity weakness.
 
Major Surgical or Invasive Procedure:
___ Spinal AVM embolization.
___ T3 Laminectomy and Angiogram.

 
History of Present Illness:
___ gentleman who fell in ___ on the ice and hit 
his head and neck.  He did not seek attention at that time, but 
noticed over the ensuing weeks, weakness of his triceps.  He is 
fairly active and works out on a regular basis.  He also 
developed some numbness in this distribution.  He was evaluated 
with MRI and then CT, CTA and EMG studies.  EMG studies 
demonstrate radiculopathy at C7 and C4. His MRI of the cervical 
canal demonstrates a number of serpiginous vessels, centered 
mostly around C6 and C7 which appear consistent with a spinal 
cord AVM.  It is unclear to me at this point whether these are 
venous structures in relation to a type 1 AVM or on the back 
wall of the pia itself of the spinal cord.  There is no cord 
edema. The risks and benefits of surgical intervention and 
embolization were discussed. 

 
Past Medical History:
Vit D Deficiency
Cervical Radiculopathy

 
Social History:
___
Family History:
NC.
 
Physical Exam:
NEUROLOGIC EXAMINATION ON ADMISSION:
Slight pain left arm, otherwise intact. Full strength in all 
extremities. Sensation intact also.

NEUROLOGIC EXAMINATION ON DISCHARGE:
Alert and oriented x3. Speech fluent and clear. Comprehension 
intact.
CN II-XII grossly intact. 
Motor Examination: ___ strength in the upper and lower 
extremities bilaterally.
Incision: Dressing intact. No drainage.
Groin site: soft, non-tender, no hematoma. 

 
Pertinent Results:
___ - Spinal Artery Embolization: 
Attempted embolization of thoracic spinal vascular lesion that 
failed due to difficult access. 

 
Brief Hospital Course:
Spinal AVM:
Patient was taken to the angio suite on the day of admission on 
___ for an embolization of his cervical AVM. During the case, 
his AVM was visualized but the team was unable to pass the 
microcatheter into the lesion. He was transported to the neuro 
step down unit post procedurally with alternate planning for 
open surgery the following day. The patient was taken to the 
operating room on ___ and underwent a L3 laminectomy followed 
by a diagnostic angiogram for confirmation. On ___, the 
patient remained neurologically stable. He was voiding, 
tolerating a diet and ambulating independently. His respiratory 
rate was tachypnic to the low ___ into the morning. This was 
discussed with ___, MD, Neuro Vascular Fellow 
and it was recommended that the patient be discharged to home 
with an incentive spirometer. 

 
Medications on Admission:
Lisinopril 20mg dailky
Chantix 0.5mg BID

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
Do not exceed greater than 4g Acetaminophen in a 24-hour period. 
  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth BID. Disp #*20 
Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
Hold for sedation, drowsiness or RR <12. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0 
4.  Chantix (varenicline) 1 mg oral BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Spinal AVM.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Spine Surgery without Fusion

Surgery
•Your dressing may come off on the second day after surgery.
•       The incision on your back is closed with sutures. You 
will need suture removal. Please keep your incision dry until 
suture  removal.
•You may remove the bilateral dressings on your head on 
___. There are steri strips underneath the dressings, these 
will fall off when ready.
•Do not apply any lotions or creams to the site.
•Please avoid swimming for two weeks after suture removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage.

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication.
•No contact sports until cleared by your neurosurgeon.

Medications
•You may take Ibuprofen/ Motrin for pain.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation.

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site.
•Fever greater than 101.5 degrees Fahrenheit.
•New weakness or changes in sensation in your arms or legs.

.
Spinal Angiogram Post-operative Instructions:
Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.

Medications
•Resume your normal medications and begin new medications as 
directed.
•You may be instructed by your doctor to take one ___ a day 
and/or Plavix. If so, do not take any other products that have 
aspirin in them. If you are unsure of what products contain 
Aspirin, as your pharmacist or call our office.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.

Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•Mild to moderate headaches that last several days to a few 
weeks.
•Fatigue is very normal.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit.
•Constipation.
•Blood in your stool or urine.
•Nausea and/or vomiting.
•Extreme sleepiness and not being able to stay awake.
•Severe headaches not relieved by pain relievers.
•Seizures.
•Any new problems with your vision or ability to speak.
•Weakness or changes in sensation in your face, arms, or leg.

 
Followup Instructions:
___